US04518599
2-Amino-5-chloro-3-cyano-6-[(2-acetamidoethyl)thio]pyrazine
The product of Example 9 above, 2-amino-5-chloro-3-cyano-6-[(2-aminoethyl)thio]pyrazine (50 mg), was suspended in pyridine (0.5 ml), to which acetic anhydride (0.5 ml) was then added. The reaction mixture was stirred at room temperature overnight (18 hours), after which ice was added. The product precipitated, was filtered, and washed with water (10 mg).

reactant | 2-amino-5-chloro-3-cyano-6-[(2-aminoethyl)thio]pyrazine | 50 mg | NC1=NC(=C(N=C1C#N)Cl)SCCN | C7H8ClN5S
reactant | acetic anhydride | 0.5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-Amino-5-chloro-3-cyano-6-[(2-acetamidoethyl)thio]pyrazine | NC1=NC(=C(N=C1C#N)Cl)SCCNC(C)=O | C9H10ClN5OS
